US06586421B2
(5aS*,10bS*)-10-[3-(2-naphthyloxy)propyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride, making non-critical variations, starting from 10-[3-(2-naphthyloxy)propyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole the title compound was prepared: 1H NMR (CDCl3) δ 1.89-2.08, 2.22, 2.77, 2.91, 3.07, 3.26, 3.51, 3.67, 4.14, 6.47, 6.64, 7.05, 7.12, 7.16, 7.19, 7.35, 7.45, 7.47, 7.78. HRMS (FAB) calcd for C25H28N2O (MH+) 373.2280, found 373.2288.

reactant | 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2C3C(NC2C=CC1)CCNCC3
reactant | 10-[3-(2-naphthyloxy)propyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C1=C(C=CC2=CC=CC=C12)OCCCC=1C=2C3=C(NC2C=CC1)CCNCC3 | C25H26N2O
product | (5aS*,10bS*)-10-[3-(2-naphthyloxy)propyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | C1=C(C=CC2=CC=CC=C12)OCCCC=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C25H28N2O
